US08222416B2
A mixture of {2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester (582 mg, 1.21 mmol) and 10% palladium on activated carbon (0.6 g) in methanol (200 mL) was heated at 50° C. under hydrogen (5 atm) for 5 h. After cooling, the catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo to give {2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester (584 mg) which was used in the next step without purification: LC/MS m/e calcd for C26H33N3O4S [M+H]+ 484.63, observed 484.2.

reactant | {2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester | 1.21 mmol, 582 mg | C(C)(C)(C)OC(NC=1C=C2C(=NC1)NC(=C2)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C)=O | C26H31N3O4S
catalyst | palladium on activated carbon | 0.6 g | [Pd] | Pd
solvent | methanol | 200 mL | CO | CH4O
product | {2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester | 584 mg | C(C)(C)(C)OC(NC=1C=C2C(=NC1)NC(=C2)C(CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C)=O | C26H33N3O4S
